US04248746
Finely divided vinyl acetate-methyl methacrylate copolymer is prepared exactly as described in Example 1 except that in place of the vinyl acetate there is used a 75:25 mixture of vinyl acetate and methyl methacrylate and the heating temperature is maintained in the range of 75° to 85° C. After the postheating period, 60 parts of unreacted vinyl acetate is removed by evaporation with about 180 parts of the hydrocarbon solvent so that the ratio of the monomers in the polymer is about 68:32. The resulting dispersion has a solids content of 52.4% and the particle size of 0.41 micron. The reduced specific viscosity of the polymer is 1.54 which corresponds to a molecular weight of approximately 217,000. The polymer has a glass transition temperature of 38° C.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | vinyl acetate methyl methacrylate | C(C)(=O)OC=C.C(C(=C)C)(=O)OC | InChI=1S/C5H8O2.C4H6O2/c1-4(2)5(6)7-3;1-3-6-4(2)5/h1H2,2-3H3;3H,1H2,2H3
